US04650810
A mixture of 4-chlorobutanal (1.8 g) and 2-(4-hydrazinophenyl)acetamide hydrochloride (3 g) in 50% aqueous acetic acid (200 ml) was heated at reflux for 45 min., then cooled and evaporated to give 3-(2-chloroethyl)-1H-indole-5-acetamide as a dark organe-brown foam. τ (DMSO) 6.3(2H); 6,8(2H); (CH2CH2Cl)

reactant | 4-chlorobutanal | 1.8 g | ClCCCC=O | C4H7ClO
reactant | 2-(4-hydrazinophenyl)acetamide hydrochloride | 3 g | Cl.N(N)C1=CC=C(C=C1)CC(=O)N
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 3-(2-chloroethyl)-1H-indole-5-acetamide | ClCCC1=CNC2=CC=C(C=C12)CC(=O)N | C12H13ClN2O
